US08871756B2
4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid
The title compound was prepared in analogy to Example 108-1 in Scheme 54 by using 4-(benzyloxy)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid and oxetane-3,3-diyldimethanamine, MS obsd. (ESI+) [(M+H)+] 484, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.95 (brs, 1 H), 8.68 (m, 1 H), 8.04 (d, J=9.1 Hz, 1 H), 7.77-7.73 (m, 2 H), 7.68-7.63 (m, 1 H), 7.48-7.43 (m, 1 H), 7.24-7.19 (m, 1 H), 5.11 (brs, 2 H), 4.59-4.30 (brs, 6 H), 4.20 (m, 1 H), 4.0 (m, 1 H), 3.58 (brs, 2 H), 3.12 (m, 2 H).

reactant | 4-(benzyloxy)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid | C(C1=CC=CC=C1)OC1=NC(=NC2=CC=C(C=C12)C(=O)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C25H21N3O5S
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | 4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazoline-6-carboxylic acid | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C(=O)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H25N5O5S
